US06057364
Under a N2 atmosphere was added 7.65 g (38.6 mmol) of 3-fluoroadamantane-1-carboxylic acid to 150 ml of dry benzene. To this solution was added 5.37 ml (38.8 mmol) of triethylamine (TEA) followed by 8.31 ml (38.8 mmol) of diphenylphosphoryl azide. The reaction mixture was heated to reflux for 45 minutes, then cooled to ambient temperature at which point 5.37 ml (38.8 mmol) of benzyl alcohol was added. The resultant reaction mixture was allowed to reflux for 72 hours. The crude reaction mixture was allowed to cool, concentrated in vacuo and chromatographed on silica gel using 4:1 hexane:EtOAc to afford 9.3 g (79%) of 3-fluoroadamantan-1ylamine benzyl carbamate: 1H NMR (CDCl3) 1.53 (2H, m), 1.75-1.95 (8H, m), 2.10 (2H, m), 2.33 (2H, bs), 4.76 (1H, bs), 5.03 (2H, bs), 7.33 (5H, m); 13C NMR (CDCl3) 30.80 (10.19), 34.52 (1.81), 40.25, 41.48 (17.74), 46.57 (18.79), 53.80 (12.23), 66.07, 92.30 (184.30), 127.99, 128.43, 136.47, 154.14). The benzyl carbamate was dissolved in 100ml of HOAc and combined with 2 g of 10% Pd/C and hydrogenated (50 psi (345 kPa; 3.4 atmos)) for a period of 5 hours. The crude reaction mixture was filtered, the catalyst was washed with HOAc and the filtrate was concentrated in vacuo to afford 7.4 g (>100%) of crude title compound as its acetate salt.

reactant | 3-fluoroadamantane-1-carboxylic acid | 38.6 mmol, 7.65 g | FC12CC3(CC(CC(C1)C3)C2)C(=O)O | C11H15FO2
reactant | triethylamine | 38.8 mmol, 5.37 ml | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 38.8 mmol, 8.31 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | benzyl alcohol | 38.8 mmol, 5.37 ml | C(C1=CC=CC=C1)O | C7H8O
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | 3-fluoroadamantan-1ylamine benzyl carbamate | 9.3 g, 79% | C(C1=CC=CC=C1)NC(O)=O.FC12CC3(CC(CC(C1)C3)C2)N | InChI=1S/C10H16FN.C8H9NO2/c11-9-2-7-1-8(3-9)5-10(12,4-7)6-9;10-8(11)9-6-7-4-2-1-3-5-7/h7-8H,1-6,12H2;1-5,9H,6H2,(H,10,11)
